US05342727
In the process for the production of 3,5-dimethyl-4-acetoxystyrene monomer, one may begin with commercially available 2,6-dimethyl phenol and esterify it with acetic anhydride to produce 2,6-dimethyl phenyl acetate. Then, via a Friedel-Crafts catalysis or Fries rearrangement this is converted to 3,5-dimethyl-4-hydroxy acetophenone. The 3,5-dimethyl-4-hydroxy acetophenone is then esterified with acetic anhydride. The latter is then hydrogenated to form 1-(3,5-dimethyl-4-acetoxyphenyl)ethanol. This is then dehydrated with an acid to form 3,5-dimethyl-4-acetoxystyrene monomer, copolymerized with unsubstituted 4-acetoxystyrene, and hydrolyzed to produce poly (3,5,-dimethyl-4-hydroxystyrene-co-4-hydroxystyrene).

reactant | 3,5-dimethyl-4-hydroxy acetophenone | CC1=CC(=CC(=C1O)C)C(=O)C | C10H12O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(3,5-dimethyl-4-acetoxyphenyl)ethanol | CC=1C=C(C=C(C1OC(C)=O)C)C(C)O | C12H16O3
